US09238639B2
Methyl 4-((3-methoxy-5-(trifluoromethyl)phenyl)sulfanyl)-3-oxobutanoate (810 mg) was added to Eaton's reagent (1994 μl) at room temperature for 2 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was subjected to silica gel column chromatography (EtOAc/hexane) to give methyl(6-methoxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate as a crude product (604 mg). The product was used to the next step without further purification.

reactant | Methyl 4-((3-methoxy-5-(trifluoromethyl)phenyl)sulfanyl)-3-oxobutanoate | 810 mg | COC=1C=C(C=C(C1)C(F)(F)F)SCC(CC(=O)OC)=O | C13H13F3O4S
reactant | Eaton's reagent | 1994 μl | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | water | O | H2O
product | methyl(6-methoxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate | COC(CC1=CSC2=C1C(=CC(=C2)OC)C(F)(F)F)=O | C13H11F3O3S
